US08258152B2
1-(2-Fluoro-4-iodo-benzyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid cyclopropylmethoxy-amide
HATU (67 mg, 0.18 mmol) and triethylamine (50 μL, 0.35 mmol) were added to a solution of sodium 1-(2-fluoro-4-iodo-benzyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylate (49 mg, 0.12 mmol) and O-cyclopropylmethyl-hydroxylamine hydrochloride (21.8 mg, 0.178 mmol) in DMF (500 μL). The reaction mixture was stirred at room temperature for 18 h, then a further 11 mg (0.09 mmol) of O-cyclopropylmethyl-hydroxylamine hydrochloride, 33 mg (0.09 mmol) of HATU, and 50 μL (0.35 mmol) of triethylamine was added. Stirring was continued for a further 18 h, then the reaction mixture was poured into ethyl acetate (15 mL). The organic layer was washed with a 1:1 solution of saturated NaHCO3 and brine (10 mL), dried over Na2SO4, filtered and concentrated to afford a yellow oil. The crude product was purified by reversed phase HPLC to afford the title compound as a white powder (TFA salt, 39 mg, 57%). LCMS (Method C): RT=3.17 min, M+H+=466. 1H NMR (DMSO-D6): δ=0.21 (m, 2H), 0.51 (m, 2H), 1.00 (m, 1H), 3.60 (d, J=7.2 Hz, 2H), 5.96 (s, 2H), 6.61 (t, J=8.0 Hz, 1H), 7.33 (s, 1H), 7.47 (dd, J=8.0, 1.2 Hz, 1H), 7.68 (dd, J=9.6, 1.6 Hz, 1H), 8.24 (d, J=6.4 Hz, 1H), 8.43 (d, J=6.4 Hz, 1H), 9.52 (s, 1H).

reactant | HATU | 0.18 mmol, 67 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.35 mmol, 50 μL | C(C)N(CC)CC | C6H15N
reactant | sodium 1-(2-fluoro-4-iodo-benzyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylate | 0.12 mmol, 49 mg | FC1=C(CN2C(=CC=3C2=CN=CC3)C(=O)[O-])C=CC(=C1)I.[Na+]
reactant | O-cyclopropylmethyl-hydroxylamine hydrochloride | 0.178 mmol, 21.8 mg | Cl.C1(CC1)CON
reactant | O-cyclopropylmethyl-hydroxylamine hydrochloride | 0.09 mmol, 11 mg | Cl.C1(CC1)CON
reactant | HATU | 0.09 mmol, 33 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.35 mmol, 50 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 500 μL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2-Fluoro-4-iodo-benzyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid cyclopropylmethoxy-amide | 39 mg, 57% | C1(CC1)CONC(=O)C1=CC=2C(=CN=CC2)N1CC1=C(C=C(C=C1)I)F | C19H17FIN3O2
